US06326381B1
d) (2R)-1-[4-(5-Fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridin-1-yl]-2-methylamino-3-phenyl-propan-1-one Hydrochloride
The crude product of (R)-{1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridin-1-yl]-2-oxo-ethyl}-methyl-carbamic acid tert-butyl ester was dissolved in 10 mL 4 M HCl/dioxane solution and the resulting mixture brought to reflux. After overnight stirring, the mixture was cooled to room temperature and the solvent evaporated to provide 0.62 g (65% yield for two steps) of the titled product.

reactant | (R)-{1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridin-1-yl]-2-oxo-ethyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1CC=C(CC1)C1=C(C=CC(=C1)F)OC)CC1=CC=CC=C1)=O | C27H33FN2O4
reactant | HCl dioxane | 4 M, 10 mL | Cl.O1CCOCC1
product | (2R)-1-[4-(5-Fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridin-1-yl]-2-methylamino-3-phenyl-propan-1-one Hydrochloride | 65% yield | Cl.FC=1C=CC(=C(C1)C1=CCN(CC1)C([C@@H](CC1=CC=CC=C1)NC)=O)OC | InChI=1S/C22H25FN2O2.ClH/c1-24-20(14-16-6-4-3-5-7-16)22(26)25-12-10-17(11-13-25)19-15-18(23)8-9-21(19)27-2;/h3-10,15,20,24H,11-14H2,1-2H3;1H/t20-;/m1./s1
